US05852017
b) 7-Amino-1-cyclohexyl-6-nitro-2,3(1H,4H)-quinoxalinedione
20.6 g (68 mmol) of 7-acetamido-1-cyclohexyl-2,3(1H,4H)-quinoxalinedione were dissolved in 250 ml of concentrated sulfuric acid. Then, at 0°-5° C., 7.2 g (71 mmol) of potassium nitrate were added a little at a time. The mixture was then stirred at 0° C. for 30 min and at room temperature for 2 h and subsequently poured into 1.5 1 of ice-water and then heated on a water bath for 4 h. The resulting precipitate was filtered off with suction. The filtrate was adjusted to pH 6 with a little ammonia solution and was extracted with methylene chloride. The organic phase was dried and concentrated under reduced pressure. This residue and the first precipitate were combined to yield 13.4 g (64%) of the product. Melting point >260° C.

reactant | 7-acetamido-1-cyclohexyl-2,3(1H,4H)-quinoxalinedione | 68 mmol, 20.6 g | C(C)(=O)NC1=CC=C2NC(C(N(C2=C1)C1CCCCC1)=O)=O | C16H19N3O3
reactant | potassium nitrate | 71 mmol, 7.2 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 250 ml | S(O)(O)(=O)=O | H2O4S
product | 7-Amino-1-cyclohexyl-6-nitro-2,3(1H,4H)-quinoxalinedione | 13.4 g, 64% | NC1=C(C=C2NC(C(N(C2=C1)C1CCCCC1)=O)=O)[N+](=O)[O-] | C14H16N4O4
